US08628760B2
A dry 500 ml 3-neck round bottom flask fitted with a condenser is charged with 12-methyltetradecan-1-ol (10.0 g, 0.0438 mol) from example I.A, 125 ml diethyl ether, triethylamine (4.87 g, 0.0481 mol), and 4-(dimethylamino)pyridine (DMAP) 0.5350 g, 0.0044 mol). The solution is stirred at room temperature under a positive N2 atmosphere. Palmitoyl chloride (13.20 g, 0.0481 mol) in 13 ml diethyl ether is added dropwise to the reaction flask from an addition funnel at room temperature. A thick white precipitate forms. An additional 115 ml of diethyl ether is added to help stirring the thick slurry. The mixture is stirred overnight at room temperature under a nitrogen atmosphere. After 18 hours reaction time an aliquot of the mixture is spotted on a TLC plate (95:5 v/v hexane:ethyl acetate) versus the starting materials, indicating the reaction to be complete. The reaction mixture is vacuum filtered, and the filter cake rinsed with 2×400 ml diethyl ether. The filtrate is back extracted with 2×400 ml water. The ether phase is dried with anhydrous magnesium sulfate, vacuum filtered and the filtrate concentrated in vacuo on a rotary evaporator at 40° and the crude product recovered (20.3 g). The crude product is dissolved in warm ethanol (150 ml) and placed into a freezer to recrystallize the product. The precipitated product is vacuum filtered and the filter cake rinsed with 0° C. ethanol (3×50 ml). The cake is further dried in vacuo at room temperature to yield 12-methyltetradecyl palmitate as a white powdery solid (17.3 g). Yield 84.1%.

reactant | 12-methyltetradecan-1-ol | 0.0438 mol, 10.0 g | CC(CCCCCCCCCCCO)CC | C15H32O
reactant | triethylamine | 0.0481 mol, 4.87 g | C(C)N(CC)CC | C6H15N
reactant | Palmitoyl chloride | 0.0481 mol, 13.20 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | hexane | CCCCCC | C6H14
catalyst | 4-(dimethylamino)pyridine | 0.0044 mol, 0.5350 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 13 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 115 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 12-methyltetradecyl palmitate | 17.3 g, Yield 84.1% | C(CCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCC(CC)C | C31H62O2
